US05025024
Preparation of 4-fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole
4-Fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole (1.31 g, 0.0045 mol) was dissolved in methylene chloride (60 ml). NaHCO3 (0.76 g, 0.0090 mol) dissolved in water (10 ml) was added and the mixture was cooled to +2° C. m-Chloroperbenzoic acid, 84% (1.64 g, 0.0045 mol) dissolved in methylene chloride (10 ml) was added dropwise with stirring. Stirring was continued at +2° C. for 15 min. After separation the organic layer was extracted with an aqueous 0.20M NaOH solution (2×25 ml, 0.010 mol). The combined aqueous solutions were neutralized to pH 7-8 with 0.1M HCl in the presence of methylene chloride (100 ml). After separation the aqueous layer was extracted with methylene chloride and the combined organic solutions were dried over MgSO4. The solution was evaporated and the title compound was obtained (1.06 g, 77%). NMR data for the final product is given below.

reactant | 4-Fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 0.0045 mol, 1.31 g | FC1=CC=CC=2NC(=NC21)SCC2=NC=CC(=C2)OC | C14H12FN3OS
reactant | NaHCO3 | 0.0090 mol, 0.76 g | C(=O)(O)[O-].[Na+]
reactant | m-Chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaOH | 0.010 mol, 0.20M, 25 ml | [OH-].[Na+]
reactant | HCl | 0.1M | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | FC1=CC=CC=2NC(=NC21)S(=O)CC2=NC=CC(=C2)OC | C14H12FN3O2S
